US04992589
(a) (2-Mercaptoethyl-5-nitrophenyl hydroxyethyl sulfone)
132.85 g of 2-chloro-5-nitrophenyl hydroxyethyl sulfone are suspended together with 69.1 g of potassium carbonate in 500 ml of ethylmercaptan, and the reaction is allowed to proceed at 30° C. for 2 hours. The ethylmercaptan excess is distilled off under a high vacuum, the residue is taken up in ethanol, and the product is crystallized by pouring into ice-water. After filtration this gives 140.5 g of 2-mercaptoethyl-5-nitrophenyl hydroxyethyl sulfone having a melting of 112°-114° C. (purity >95%), which corresponds to a yield of 91.5% of theory, relative to starting 2-chloro-5-nitrophenyl hydroxyethyl sulfone.

reactant | 2-chloro-5-nitrophenyl hydroxyethyl sulfone | 132.85 g | OCCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C8H8ClNO5S
reactant | potassium carbonate | 69.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylmercaptan | 500 ml | C(C)S | C2H6S
product | 2-Mercaptoethyl-5-nitrophenyl hydroxyethyl sulfone | yield of 91.5% | OCCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])CCS | C10H13NO5S2
